US09284333B2
To a solution of (R)-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 1 mmol) in tetrahydrofuran at −78° C. was added a 1 M solution of cyclopropylmagnesium chloride (1.3 ml, 1.3 mmol). After stirring for 1 h at room temperature and addition of aqueous sodium hydrogencarbonate, extraction (3 times with dichloromethane), drying of the combined organic layers over sodium sulfate and evaporation of the solvents the crude product was heated with aqueous sodium hydroxide at 100° C. for 3 days to give 20 mg of crude cyclopropyl-(R)-pyrrolidin-2-yl-methanol which was used in the next step without further purification.

reactant | (R)-2-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C=O | C10H17NO3
reactant | cyclopropylmagnesium chloride | 1.3 mmol, 1.3 ml | C1(CC1)[Mg]Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cyclopropyl-(R)-pyrrolidin-2-yl-methanol | 20 mg | C1(CC1)[C@@H](O)C1NCCC1 | C8H15NO
